US06153768
Synthesis of (3RS,4RS)-4(4-hydroxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman
Under argon atmosphere, tetrahydrofuran solution of tetrabutylammonium fluoride (1.0M, 2.27 ml, 2.27 mmol) was added dropwise to tetrahydrofuran solution (35 ml) of (3RS,4RS)-4-(4-t-butyldimethylsilyloxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman (856 mg, 1.51 mmol) at 0° C. and the resulting mixture was stirred for 2 hours. After adding water, the reaction solution was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate and then distilled under reduced pressure to remove the solvent. The crude product thus obtained was purified with silica gel column chromatography (ethyl acetate:hexane=1:2) to obtain 682 mg (yield: 100%) of the title compound.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrabutylammonium fluoride | 2.27 mmol, 1.0M, 2.27 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
reactant | (3RS,4RS)-4-(4-t-butyldimethylsilyloxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman | 1.51 mmol, 856 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C32H42O5SSi
solvent | water | O | H2O
product | (3RS,4RS)-4(4-hydroxyphenyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman | 682 mg, yield: 100% | OC1=CC=C(C=C1)C1C(CSC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C26H28O5S
